US06329372B1
2-Mercaptonicotinoyl-O-(2.6-dichlorobenzyl)-L-tyrosine methyl ester
A solution of O-(2,6dichlorobenzyl)-L-tyrosine methyl ester hydrochloride (2.50 g, 6.4 mmol), 2-mercaptonicotinic acid (0.99 g, 6.4 mmol) and NMM (1.41 ml, 1.29 g, 12.8 mmol) in DMF (10 ml) was stirred at room temperature for 64 h. Solvent was removed in vacuo and the residue partitioned between DCM (30 ml) and water (25 ml). The aqueous layer was extracted with DCM (30 ml) and the combined organic layers were washed with 10% NaHCO3 solution (30 ml), dried over MgSO4 and the solvent removed in vacuo to give a brown oil which was purified by chromatography (SiO2; gradient elution, 4:1 EtOAc/hexane to 100% EtOAc) to give the title compound as a yellow foam, (2.92 g, 93%). δH (CDCl3) 8.71 (1H, dd, J 1.8, 7.6Hz), 8.05 (1H, s), 7.61 (1H, dd, J 1.8, 6.1 Hz), 7.35 (2H, m), 7.33-7.19 (2H, m), 6.94 (2H, d, J 8.7Hz), 5.22 (2H, s), 4.97 (1H, m), 3.74 (3H, s) and 3.21 (2H, m).

reactant | O-(2,6dichlorobenzyl)-L-tyrosine methyl ester hydrochloride | 6.4 mmol, 2.50 g | Cl.COC([C@@H](N)CC1=CC=C(C=C1)OCC1=C(C=CC=C1Cl)Cl)=O
reactant | 2-mercaptonicotinic acid | 6.4 mmol, 0.99 g | SC1=C(C(=O)O)C=CC=N1 | C6H5NO2S
reactant | NMM | 12.8 mmol, 1.41 ml, 1.29 g | CN1CCOCC1 | C5H11NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-Mercaptonicotinoyl-O-(2.6-dichlorobenzyl)-L-tyrosine methyl ester | 2.92 g, 93% | COC([C@@H](NC(C1=C(N=CC=C1)S)=O)CC1=CC=C(C=C1)OCC1=C(C=CC=C1Cl)Cl)=O | C23H20Cl2N2O4S
